US05312828
(E)-3-2-n-Butyl-1-{(4-carboxy-2-chlorophenyl)methyl}-1H-imidazol-5-yl-2-benzyl-2-propenoic Acid
A solution of this half-acid half-ester in toluene is added to a refluxing solution of 2-n-butyl-1-(4-carboethoxy-2-chlorobenzyl)imidazole-5-aldehyde and piperidine in toluene. Twice at 1 hour intervals an additional amounts of the half-acid, half-ester is added, and the solution is then refluxed for 17 hours. Evaporation of the toluene and chromatography of the residue over silica gel using 2:3 ethyl acetate-hexane for elution gives the diester of the title product. This diester is hydrolyzed in 2:1 ethanol-water with 5 equivalents of potassium hydroxide for 18 hours and worked up in the usual manner to give the final product.

reactant | 2-n-butyl-1-(4-carboethoxy-2-chlorobenzyl)imidazole-5-aldehyde | C(CCC)C=1N(C(=CN1)C=O)CC1=C(C=C(C=C1)C(=O)OCC)Cl | C18H21ClN2O3
reactant | piperidine | N1CCCCC1 | C5H11N
reactant | toluene | C1(=CC=CC=C1)C | C7H8
product | (E)-3-2-n-Butyl-1-{(4-carboxy-2-chlorophenyl)methyl}-1H-imidazol-5-yl-2-benzyl-2-propenoic Acid | CC(CC)N1CN(C(=C1)/C=C(/C(=O)O)\CC1=CC=CC=C1)CC1=C(C=C(C=C1)C(=O)O)Cl | C25H27ClN2O4
